US07008957B2
11j) 2-Trimethylsilanylethyl 4-((3R,6R,7aS)-6-tert-butoxycarbonylamino-3-cyano-5-oxohexahydropyrrolo[2,1-b]thiazol-6-ylmethyl)piperidine-1-carboxylate
295 mg of 2-trimethylsilanylethyl 4-((3R,6R,7aS)-6-tert-butoxycarbonylamino-3-carbamoyl-5-oxohexahydropyrrolo[2,1-b]thiazol-6-ylmethyl)piperidine-1-carboxylate were dissolved in 20 ml of THF. 166 μl of triethylamine and 91 μl of trifluoroacetic anhydride were successively added dropwise. The mixture was stirred for 1 h and then the same amounts of triethylamine and trifluoroacetic anhydride were again added. After stirring for a further hour, the mixture was partitioned between 150 ml of ethyl acetate and 150 ml of water. The organic phase was dried with MgSO4. The solvent was removed in vacuo and the residue was chromatographed on silica gel.

reactant | 2-trimethylsilanylethyl 4-((3R,6R,7aS)-6-tert-butoxycarbonylamino-3-carbamoyl-5-oxohexahydropyrrolo[2,1-b]thiazol-6-ylmethyl)piperidine-1-carboxylate | 295 mg | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(N)=O)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C24H42N4O6SSi
reactant | triethylamine | 166 μl | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 91 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-Trimethylsilanylethyl 4-((3R,6R,7aS)-6-tert-butoxycarbonylamino-3-cyano-5-oxohexahydropyrrolo[2,1-b]thiazol-6-ylmethyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C#N)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C24H40N4O5SSi
